US04005208
A mixture of 10 g. of 3-aminopiperidine and 29.6 g. of phthalic anhydride is heated at 150° C. for 30 minutes. This mixture which contains 1-(2-carboxybenzoyl)-3-phthalimidopiperidine is heated at reflux with 500 ml. of 6N hydrochloric acid for two hours. The aqueous phase is extracted with ether and then concentrated in vacuo. The residue is extracted with dilute aqueous sodium hydroxide solution and methylene chloride. The organic phase is dried and concentrated in vacuo to give 3-phthalimidopiperidine.

reactant | 3-aminopiperidine | NC1CNCCC1 | C5H12N2
reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 1-(2-carboxybenzoyl)-3-phthalimidopiperidine | C(=O)(O)C1=C(C(=O)N2CC(CCC2)N2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C21H18N2O5
reactant | hydrochloric acid | 6N | Cl | ClH
product | 3-phthalimidopiperidine | C1(C=2C(C(N1C1CNCCC1)=O)=CC=CC2)=O | C13H14N2O2
